US05602170
Synthesis of 5-(1-hydroxy-propyl)-2,2':5',2"-terthiophene
3.5 g of 5-formyl-2,2':5',2"-terthiophene was dissolved in 200 ml of anhydrous THF under nitrogen stream. 7.9 ml of ethyl Grignard reagent was dropped in slowly under ice bath temperature and stirred at 0° C. for 1 hour. The reaction mixture was then heated to 70° C. in oil bath for 4 hours. The solution was monitored by thin layer chromatography to determine whether the reaction was completed. 50 ml of water and 300 ml of ethyl acetate were added and the ethyl acetate extract was purified by column chromatography. From the eluate of ethyl acetate/n-hexane (1/9) fraction, yellow solid was obtained and recrystallized to give granulate crystal. The melting point of the product was 89°-90° C. and the yield was about 70%.

reactant | 5-formyl-2,2':5',2"-terthiophene | 3.5 g | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H8OS3
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-(1-hydroxy-propyl)-2,2':5',2"-terthiophene | yield was about 70% | OC(CC)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C15H14OS3
